US07094769B2
(2R,3R,4S,5S)-4-(Benzoyloxy)-2-(6-{[2,2-bis(3-chlorophenyl)ethyl]amino}-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate
Prepared from ((2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-chloro-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate (Preparation 47) and 2,2-bis(3-chlorophenyl)ethylamine by the same method as Preparation 48. The title compound was obtained as a yellow foam.

reactant | (2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-chloro-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)Cl)I | C26H21ClIN5O6
reactant | 2,2-bis(3-chlorophenyl)ethylamine | ClC=1C=C(C=CC1)C(CN)C1=CC(=CC=C1)Cl | C14H13Cl2N
product | (2R,3R,4S,5S)-4-(Benzoyloxy)-2-(6-{[2,2-bis(3-chlorophenyl)ethyl]amino}-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC(=CC=C1)Cl)C1=CC(=CC=C1)Cl)I | C40H33Cl2IN6O6
